US07419984B2
N-[4-(5-Chloro-2-methyl-phenyl)-6-(4-trifluoromethyl-phenylamino)-pyrimidin-2-yl]-succinamic acid
To a stirred solution of 1-[4-(5-chloro-2-methyl-phenyl)-6-(4-trifluoromethyl-phenylamino)-pyrimidin-2-yl]-pyrrolidine-2,5-dione (0.15 g, 0.33 mmol), tetrahydrofuran (15 ml), and water (15 ml), cooled in an ice bath, was added aqueous sodium hydroxide solution (0.25 M, 4.0 ml, 1.0 mmol) dropwise. After stirring for 1 hour, hydrochloric acid (0.25 M, 8.0 ml, 2.0 mmol) was added dropwise. Evaporation of the tetrahydrofuran under reduced pressure and filtration provided the title compound as hydrochloride salt (93% yield). 1H NMR (CD3OD) δ 2.48 (s, 3H, CH3), 2.73-2.76 (m, 2H, CH2), 2.89-2.92 (m, 2H, CH2), 6.81 (s, 1H, Ar), 7.45 (d, 1H, J=8.3 Hz, Ar), 7.54 (dd, 1H, J=8.3 Hz, J=2.2 Hz, Ar), 7.60 (d, 1H, J=2.2 Hz, Ar), 7.76 (d, 2H, J=8.6 Hz, Ar), 8.04 (d, 2H, J=7.9 Hz, Ar).

reactant | 1-[4-(5-chloro-2-methyl-phenyl)-6-(4-trifluoromethyl-phenylamino)-pyrimidin-2-yl]-pyrrolidine-2,5-dione | 0.33 mmol, 0.15 g | ClC=1C=CC(=C(C1)C1=NC(=NC(=C1)NC1=CC=C(C=C1)C(F)(F)F)N1C(CCC1=O)=O)C | C22H16ClF3N4O2
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1.0 mmol, 0.25 M, 4.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2.0 mmol, 0.25 M, 8.0 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
product | N-[4-(5-Chloro-2-methyl-phenyl)-6-(4-trifluoromethyl-phenylamino)-pyrimidin-2-yl]-succinamic acid | ClC=1C=CC(=C(C1)C1=NC(=NC(=C1)NC1=CC=C(C=C1)C(F)(F)F)NC(CCC(=O)O)=O)C | C22H18ClF3N4O3
